US08492549B2
Methanesulfonic acid (S)-3-(2,6-dihydroxy-phenoxy)-2-methanesulfonyloxy-propyl ester
Methanesulfonic acid (S)-3-(2,6-dimethoxy-phenoxy)-2-methanesulfonyloxy-propyl ester (3.08 g, 8.00 mmol) in) in dichloromethane (40 ml) was cooled to 0° C. and stirred under nitrogen atmosphere. Boron tribromide (1 M solution in dichloromethane, 18 ml, 18 mmol) was added in 15 min. The mixture was stirred at +25° C. for 4 h, and poured on mixture of ice (10 g) and water (15 ml), and the layers were separated. Organic phase was recovered and water layer was extracted twice with dichloromethane (15 ml). Organic phase and dichloromethane extracts were combined and washed with water (15 ml) and saturated sodium chloride solution (15 ml). The combined organic phase was dried (Na2SO4), filtered and evaporated to dryness to give 2.53 g of the title compound.

reactant | Methanesulfonic acid (S)-3-(2,6-dimethoxy-phenoxy)-2-methanesulfonyloxy-propyl ester | 8.00 mmol, 3.08 g | COC1=C(OC[C@@H](COS(=O)(=O)C)OS(=O)(=O)C)C(=CC=C1)OC | C13H20O9S2
reactant | Boron tribromide | 18 mmol, 1 M, 18 ml | B(Br)(Br)Br | BBr3
reactant | water | 15 ml | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid (S)-3-(2,6-dihydroxy-phenoxy)-2-methanesulfonyloxy-propyl ester | 2.53 g | OC1=C(OC[C@@H](COS(=O)(=O)C)OS(=O)(=O)C)C(=CC=C1)O | C11H16O9S2
